US06166006
A mixture of 2-(4-nitrobenzyl)pyridine (J. Chem. Soc., p549, 1929) (1.50 g) and 5% Pd-C (0.15 g) in ethanol (30 ml) was vigorously stirred under hydrogen atmosphere for 8 hours, and the Pd-C was filtered off. The filtrate was concentrated under reduced pressure, and the residue was separated and purified with column chromatography (ethyl acetate/hexane=1:1→2:1) to give 2-(4-aminobenzyl)-pyridine (1.09 g) as yellow oil.

reactant | 2-(4-nitrobenzyl)pyridine | 1.50 g | [N+](=O)([O-])C1=CC=C(CC2=NC=CC=C2)C=C1 | C12H10N2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.15 g | [Pd] | Pd
product | 2-(4-aminobenzyl)-pyridine | 1.09 g | NC1=CC=C(CC2=NC=CC=C2)C=C1 | C12H12N2
